US06426345B1
A mixture of 2-benzyl-4-(3-carboxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (166 mg), diphenylphosphoryl azide (128 mg) and triethylamine (47 mg) in ethanol (3 ml) was refluxed for 4 hours. The mixture was poured into ethyl acetate and washed with water and brine, dried over magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography (hexane-ethyl acetate, 1:1) to afford 2-benzyl-4-(3-ethoxycarbonylaminophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (35 mg) as powder.

reactant | 2-benzyl-4-(3-carboxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 166 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)C(=O)O)N=CC=C2 | C21H15N3O3
reactant | diphenylphosphoryl azide | 128 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 47 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-benzyl-4-(3-ethoxycarbonylaminophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 35 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)OCC)N=CC=C2 | C23H20N4O3
